US04603198
5.23 g of 2-(2-tritylaminothiazol-4-yl)-2-((1-methylimidazol-5-yl)methoxyimino)acetic acid and 3.28 g of tertiary butyl 7β-amino-3-acetoxymethyl-3-cephem-4-carboxylate were suspended in 200 ml of methylene chloride and 1.35 g of 1-hydroxybenzotriazole was added thereto. A mixture of 2.27 g of DCC and 20 ml of methylene chloride was added to the mixture under stirring and cooling in an ice-bath. The resulting mixture was stirred for 1 hour at the same temperature and then stirred for 23 hours at room temperature. The insoluble material was removed by filtration and the filtrate was concentrated to dryness in vacuo. The residue was purified by silica gel column chromatography with a 1% methanol-chloroform eluent to give 6.49 g of tertiary butyl 7β-(2-(2-tritylaminothiazol-4-yl)-2-((1-methylimidazol-5-yl)methoxyimino)acetamido)-3-acetoxymethyl-3-cephem-4-carboxylate (syn isomer) as a powder.

reactant | 2-(2-tritylaminothiazol-4-yl)-2-((1-methylimidazol-5-yl)methoxyimino)acetic acid | 5.23 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOCC1=CN=CN1C | C29H25N5O3S
reactant | tertiary butyl 7β-amino-3-acetoxymethyl-3-cephem-4-carboxylate | 3.28 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OC(C)(C)C)C1=O | C14H20N2O5S
reactant | 1-hydroxybenzotriazole | 1.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 2.27 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | tertiary butyl 7β-(2-(2-tritylaminothiazol-4-yl)-2-((1-methylimidazol-5-yl)methoxyimino)acetamido)-3-acetoxymethyl-3-cephem-4-carboxylate | 6.49 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OC(C)(C)C)C1=O)=NOCC1=CN=CN1C | C43H43N7O7S2
